US06265575B1
Part A. (±)-Methyl 3-[[trans-2-(Dimethylamino)cyclohexyl]oxy]isoxazole-5-carboxylate
The title compound was prepared in 73% yield by essentially following the procedures outlined in Example 20, Part B from methyl 3-hydroxyisoxazole-5-carboxylate and (±)-trans-2-(dimethylamino)cyclohexanol (Example 79, Part A).

reactant | methyl 3-hydroxyisoxazole-5-carboxylate | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | (±)-trans-2-(dimethylamino)cyclohexanol | CN([C@H]1[C@@H](CCCC1)O)C | C8H17NO
product | (±)-Methyl 3-[[trans-2-(Dimethylamino)cyclohexyl]oxy]isoxazole-5-carboxylate | 73% yield | CN([C@H]1[C@@H](CCCC1)OC1=NOC(=C1)C(=O)OC)C | C13H20N2O4
